US06255285B1
To a solution of 2.0 g (8.0 mmol) of Tyr(3-tBu)-OMe in 40 ml of methanol, 8.8 ml (8.8 mmol) of 1 N aqueous sodium hydroxide was added dropwise under cooling with ice and the mixture was stirred for 2 hours, followed by stirring at room temperature for additional 4 hours. The reaction mixture was concentrated under reduced pressure and 1 N HCl was added under cooling with ice for pH adjustment to 9; to the reaction being maintained at pH 8-9, a solution of 3.0 g (8.8 mmol) of Fmoc-OSu in 1,4-dioxane (40 ml) and a saturated aqueous solution of sodium hydrogencarbonate were alternately added dropwise and the mixture was stirred at room temperature for 1 day. After being rendered acidic with hydrochloric acid, the reaction mixture was extracted with ethyl acetate and the ethyl acetate layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crude product was subjected to silica gel column chromatography (eluting solvents were ethyl acetate:n-hexane=1:1 and acetic acid supplemented ethyl acetate:n-hexane=1:1); to remove the acetic acid used in eluting, the fractions were washed with water, dried with anhydrous magnesium sulfate and concentrated under reduced pressure to give Fmoc-Tyr(3-tBu)-OH in the amount of 2.3 g (yield: 61%).

reactant | Tyr(3-tBu)-OMe | 8.0 mmol, 2.0 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
reactant | sodium hydroxide | 8.8 mmol, 1 N, 8.8 ml | [OH-].[Na+]
reactant | Fmoc-OSu | 8.8 mmol, 3.0 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | Fmoc-Tyr(3-tBu)-OH | yield: 61% | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C28H29NO5
